US07157464B2
Synthesis of 5-tert-Butyl-4-chloro-3-trifluoromethyl-1H-pyrazole
Following protocol L, 5-tert-butyl-3-trifluoromethyl-1H-pyrazole was treated with NCS in DMF to yield title compound.

reactant | 5-tert-butyl-3-trifluoromethyl-1H-pyrazole | C(C)(C)(C)C1=CC(=NN1)C(F)(F)F | C8H11F3N2
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-tert-Butyl-4-chloro-3-trifluoromethyl-1H-pyrazole | C(C)(C)(C)C1=C(C(=NN1)C(F)(F)F)Cl | C8H10ClF3N2
